US07410988B2
2-(3-(2-(N-(3-Morpholinopropyl)thiophene-2-carboxamido)thiazol-4-yl)phenoxy)acetic acid
A mixture of methyl bromoacetate (690 μL, 7.3 mmol) and 4-hydroxyacetophenone (1 g, 7.3 mmol) was dissolved in acetone (100 mL), followed by addition of anhydrous K2CO3 (10 g, 73 mmol). The reaction mixture was stirred at room temperature overnight, filtered, and the filtrate was concentrated in vacuo. The resulting residue was dissolved in dioxane (21 mL), and a portion of the obtained solution (3.2 mL, 1.03 mmol) was combined with a solution of NaOH (64 mg, 1.6 mmol) in water (3 mL). The reaction mixture was maintained at room temperature for 1 h, then concentrated in vacuo. The residue was dissolved in water (3 mL) and neutralized with 1M HCl. The mixture was extracted with EtOAc (10 mL), and the organic layer was dried over MgSO4 and concentrated in vacuo. The crude acid was dissolved in THF (36 mL) and a portion of the obtained solution (5.2 mL, 0.14 mmol) was combined with phenyltrimethylammonium tribromide (93 mg, 0.14 mmol). The reaction mixture was heated at reflux for 1 h, cooled and stirred at room temperature overnight, then concentrated in vacuo. The resulting residue was dissolved in water (15 mL) and extracted with dichloromethane (2×30 mL). The combined organic extracts were dried over MgSO4 and concentrated in vacuo. The crude bromoketone was dissolved in dry dioxane (1 mL) followed by the addition of (3-morpholin-4-yl-propyl)-thiourea (28 mg, 0.14 mmol). The reaction mixture was heated at 80° C. for 1 h, cooled to room temperature, then concentrated in vacuo. The resulting crude aminothiazole was suspended in dry chloroform (600 μL) followed by addition of N,N-diisopropylethylamine (52 μL, 0.3 mmol) and thiophene-2-carbonyl chloride (24 μL, 0.22 mmol). The reaction mixture was stirred at room temperature for 30 min, then concentrated in vacuo. The resulting residue was dissolved in AcOH/water (1:1, 5 mL), heated at reflux for 30 min, cooled to room temperature, then concentrated in vacuo. The resulting crude product was dissolved in DMSO (800 μL) and a portion of the obtained solution (200 μL, 0.035 mmol) was subjected to HPLC purification (Method Z) to provide the title compound (2.4 mg) as a colorless amorphous solid. LC/MS (ESI) m/z 488.3 [M+H]. HPLC retention time (Method B)=2.58 min.

reactant | methyl bromoacetate | 7.3 mmol, 690 μL | BrCC(=O)OC | C3H5BrO2
reactant | 4-hydroxyacetophenone | 7.3 mmol, 1 g | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | K2CO3 | 73 mmol, 10 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 1.6 mmol, 64 mg | [OH-].[Na+]
reactant | phenyltrimethylammonium tribromide | 0.14 mmol, 93 mg | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | (3-morpholin-4-yl-propyl)-thiourea | 0.14 mmol, 28 mg | N1(CCOCC1)CCCNC(=S)N | C8H17N3OS
reactant | N,N-diisopropylethylamine | 0.3 mmol, 52 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | thiophene-2-carbonyl chloride | 0.22 mmol, 24 μL | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | water | 3 mL | O | H2O
product | 2-(3-(2-(N-(3-Morpholinopropyl)thiophene-2-carboxamido)thiazol-4-yl)phenoxy)acetic acid | 2.4 mg | O1CCN(CC1)CCCN(C(=O)C=1SC=CC1)C=1SC=C(N1)C=1C=C(OCC(=O)O)C=CC1 | C23H25N3O5S2
